US04705853
5-Chloro-2-hydroxy-6-methyl-3-pyridinecarboxylic acid
To a solution of 15.7 g of 50% sodium hydroxide and 18.2 ml of water was added 10 g (0.065 mole) of 2-hydroxy-6-methylnicotinic acid. When the acid had dissolved, 200 ml of 5.25% aqueous sodium hypochlorite was added rapidly through a dropping funnel. The temperature was not moderated (slight exotherm did occur). The entire mixture was stirred at room temperature for 18 hr. The reaction mixture was then filtered and acidified with concentrated hydrochloric acid. The precipitate was recrystallized from isopropyl alcohol/ethereal to give ~6 g of analytically pure crystals, m.p. 291°-94° C.

reactant | sodium hydroxide | 15.7 g | [OH-].[Na+]
reactant | 2-hydroxy-6-methylnicotinic acid | 0.065 mole, 10 g | OC1=C(C(=O)O)C=CC(=N1)C | C7H7NO3
reactant | sodium hypochlorite | 200 ml | Cl[O-].[Na+]
solvent | water | 18.2 ml | O | H2O
product | 5-Chloro-2-hydroxy-6-methyl-3-pyridinecarboxylic acid | ClC=1C=C(C(=NC1C)O)C(=O)O | C7H6ClNO3
